US07645754B2
1-(3-Phenylprop-2-ynyl)-piperazine (29.21)
To a solution of piperazine (862 mg, 10.0 mmol) in THF (16 mL) is added (3-bromoprop-1-ynyl)-benzene (245 mg, 1.26 mmol), and the reaction mixture is stirred overnight. THF is evaporated, water/Na2CO3 is added, the mixture is extracted with Et2O (6×10 mL), the combined extracts are washed with water, brine, dried over MgSO4, filtered, and concentrated. The residue is purified by chromatography (silica gel, MeOH/CH2Cl2), yielding 179 mg (0.892 mmol, 71%) of the target compound. 1H NMR (CDCl3, 200 MHz): δ=1.97 (s, 1H), 2.63 (m, 4H), 2.97 (m, 4H), 3.51 (s, 2H), 7.25-7.35 (m, 3H), 7.40-7.48 (m, 2H).

reactant | piperazine | 10.0 mmol, 862 mg | N1CCNCC1 | C4H10N2
reactant | (3-bromoprop-1-ynyl)-benzene | 1.26 mmol, 245 mg | BrCC#CC1=CC=CC=C1 | C9H7Br
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | 1-(3-Phenylprop-2-ynyl)-piperazine | 0.892 mmol, 179 mg, 71% | C1(=CC=CC=C1)C#CCN1CCNCC1 | C13H16N2
